US05620981
A solution of 4-methylamino-2-methylsulfanyl-5-pyrimidinecarboxylate ethyl ester (4.36 g, 19.3 mmol) in 60 mL of tetrahydrofuran was added dropwise to a room temperature suspension of lithium aluminum hydride (1.10 g, 29.0 mmol) in 40 mL of tetrahydrofuran. After 10 minutes the reaction was carefully quenched with 2 mL of water, 2 mL of 15% NaOH, and an additional 7 mL of water. The mixture was stirred for 1 hour, and the white precipitate which had formed was removed by filtration, and was washed with ethyl acetate. The filtrate was concentrated in vacuo and 3:1 hexane:ethyl acetate was added. The solids were collected to give 2.99 g (84%) of 4-methylamino-2-methylsulfanyl-5-pyrimidinemethanol, mp 155°-157° C.

reactant | 4-methylamino-2-methylsulfanyl-5-pyrimidinecarboxylate ethyl ester | 19.3 mmol, 4.36 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC | C9H13N3O2S
reactant | lithium aluminum hydride | 29.0 mmol, 1.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-methylamino-2-methylsulfanyl-5-pyrimidinemethanol | 2.99 g, 84% | CNC1=NC(=NC=C1CO)SC | C7H11N3OS
